US04795755
5-(4-[2-(2,2,2-Trifluoroethyl)guanidino]pyrimid-2-yloxy)valeramidine hydrochloride (0.5 g.) was added to a solution of ethyl acetoacetate (0.352 g.) and sodium hydride (0.07 g.) in MeOH (6 ml.). The resulting solution was heated under reflux for 18 hours. The solvent was evaporated and the residue taken up in aqueous HOAc and extracted with EtOAc. The aqueous layer was basified with potassium carbonate and extracted with EtOAc. Work up gave a sticky solid which was crystallised from acetonitrile to give 4-hydroxy-6-methyl-2-[4-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-yloxy)butyl]pyrimidine as white crystals (0.22 g.), m.p. 191°-193°.

reactant | 5-(4-[2-(2,2,2-Trifluoroethyl)guanidino]pyrimid-2-yloxy)valeramidine hydrochloride | 0.5 g | Cl.FC(CN=C(NC1=NC(=NC=C1)OCCCCC(=N)N)N)(F)F
reactant | ethyl acetoacetate | 0.352 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 0.07 g | [H-].[Na+]
solvent | MeOH | 6 ml | CO | CH4O
product | 4-hydroxy-6-methyl-2-[4-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-yloxy)butyl]pyrimidine | OC1=NC(=NC(=C1)C)CCCCOC1=NC=CC(=N1)NC(=NCC(F)(F)F)N | C16H20F3N7O2
